US07335660B2
A mixture of 1-bromo-4,5-bis(bromomethyl)-naphthalene (0.38 g, 0.97 mmol) and sodium sulfide nonahydrate (0.25 g, 1.04 mmol) in dimethylformamide (13 mL) was stirred at room temperature for 5 h, in the presence of sodium sulfate as scavenger for the water. The reaction mixture was poured into water and extracted into diethyl ether. The combined organic extracts were washed with water, dried (Na2SO4) and concentrated to dryness, to yield 6-bromo-1H,3H-naphtho[1,8-cd]thiopyran as a pale yellow solid.

reactant | 1-bromo-4,5-bis(bromomethyl)-naphthalene | 0.97 mmol, 0.38 g | BrC1=CC=C(C2=C(C=CC=C12)CBr)CBr | C12H9Br3
reactant | sodium sulfide nonahydrate | 1.04 mmol, 0.25 g | O.O.O.O.O.O.O.O.O.[S-2].[Na+].[Na+]
reactant | sodium sulfate | S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | water | O | H2O
solvent | dimethylformamide | 13 mL | CN(C=O)C | C3H7NO
product | 6-bromo-1H,3H-naphtho[1,8-cd]thiopyran | BrC=1C=CC=2CSCC=3C2C1C=CC3 | C12H9BrS
